US06316467B1
A solution of γ-phenyl-γ-butyrolactone (4.84 g, 29.8 mmol) in 200 ml of a 2 molar solution of dimethylamine in THF was stirred under a nitrogen atmosphere at room temperature for 2 days. The solvent was removed under reduced pressure to give 6.26 g of 4-hydroxy-N,N-dimethyl-4-phenyl-butyramide as a light brown oil, MS [M+H]+ m/e 208.

reactant | γ-phenyl-γ-butyrolactone | 29.8 mmol, 4.84 g | C1(=CC=CC=C1)C1CCC(=O)O1 | C10H10O2
reactant | dimethylamine | CNC | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | 4-hydroxy-N,N-dimethyl-4-phenyl-butyramide | 6.26 g | OC(CCC(=O)N(C)C)C1=CC=CC=C1 | C12H17NO2
